US06506901B2
Step C: Acetic Acid 3-Amino-4-(t-butyl-diphenyl-silanyloxy)-phenyl Ester
Acetic acid 3-nitro-4-(t-butyl-diphenyl-silanyloxy)-phenyl ester (5.0 g, 11.86 mmol) was dissolved in anhydrous tetrahydrofuran (100 mL). Excess Raney Ni was added and the mixture placed under an atmospheric of hydrogen overnight. The mixture was filtered through a Celite pad and the solvent removed to give the title compound as a solid (3.5 g, 8.6 mmol).

reactant | Acetic acid 3-nitro-4-(t-butyl-diphenyl-silanyloxy)-phenyl ester | 11.86 mmol, 5.0 g | [N+](=O)([O-])C=1C=C(C=CC1O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OC(C)=O | C24H25NO5Si
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | Ni | [Ni] | Ni
product | Acetic Acid 3-Amino-4-(t-butyl-diphenyl-silanyloxy)-phenyl Ester | 8.6 mmol, 3.5 g | NC=1C=C(C=CC1O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OC(C)=O | C24H27NO3Si
